US07205291B2
To a solution of 4-nitrobenzyl (5R,6S)-3-(3-hydroxyphenyl)-7-oxo-6-{(1R)-1-[(trimethylsilyl)oxy]ethyl}-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate prepared in the above step in dichloromethane (10 ml) was added N,N-diisopropylethylamine (catalytic amount), and thereto was added under ice cooling a solution of methyl isocyanate (57 mg) in dichloromethane (5 ml). After stirring under ice cooling for 2 hours, the temperature was raised to room temperature and the reaction mixture was poured into a mixture of ice water and ethyl acetate. The mixture was extracted and separated with a separating funnel. The organic layer was washed with cold water (twice) and a cold saturated aqueous sodium chloride solution in the order, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give 4-nitrobenzyl (5R,6S)-3-(3-{[(methylamino)carbonyl]oxy}phenyl)-7-oxo-6-{(1R)-1-[(trimethylsilyl)oxy]ethyl}-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (276 mg).

reactant | 4-nitrobenzyl (5R,6S)-3-(3-hydroxyphenyl)-7-oxo-6-{(1R)-1-[(trimethylsilyl)oxy]ethyl}-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | OC=1C=C(C=CC1)C1=C(N2C([C@@H]([C@H]2C1)[C@@H](C)O[Si](C)(C)C)=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C25H28N2O7Si
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methyl isocyanate | 57 mg | CN=C=O | C2H3NO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-nitrobenzyl (5R,6S)-3-(3-{[(methylamino)carbonyl]oxy}phenyl)-7-oxo-6-{(1R)-1-[(trimethylsilyl)oxy]ethyl}-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 276 mg | CNC(=O)OC=1C=C(C=CC1)C1=C(N2C([C@@H]([C@H]2C1)[C@@H](C)O[Si](C)(C)C)=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C27H31N3O8Si
